US07691877B2
(2-Amino-6-methoxy-3-nitro-pyridin-4-yl)-benzyl-carbamic acid ethyl ester
Sodium hydride (9 mg) was dissolved carefully in methanol (0.5 ml) and this solution then added to a solution of (2-amino-6-bromo-3-nitro-pyridin-4-yl)-benzyl-carbamic acid ethyl ester (50 mg) in THF (0.5 ml) at room temperature. The reaction was stirred under nitrogen for 2 hours then the solution pre-absorbed directly onto silica gel. The mixture was purified by chromatography on an Isco Companion, eluting with ethyl acetate:heptane, increasing the gradient linearly from 20:80 to 60:40 over several column volumes. The desired fractions were combined and evaporated to provide the title compound (23 mg) as a yellow gum.

reactant | Sodium hydride | 9 mg | [H-].[Na+]
reactant | (2-amino-6-bromo-3-nitro-pyridin-4-yl)-benzyl-carbamic acid ethyl ester | 50 mg | C(C)OC(N(CC1=CC=CC=C1)C1=C(C(=NC(=C1)Br)N)[N+](=O)[O-])=O | C15H15BrN4O4
reactant | methanol | 0.5 ml | CO | CH4O
solvent | THF | 0.5 ml | C1CCOC1 | C4H8O
product | (2-Amino-6-methoxy-3-nitro-pyridin-4-yl)-benzyl-carbamic acid ethyl ester | 23 mg | C(C)OC(N(CC1=CC=CC=C1)C1=C(C(=NC(=C1)OC)N)[N+](=O)[O-])=O | C16H18N4O5
